US05344843
A mixture of 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester (0.582 g) in dimethylformamide (8 mL) under argon was treated with 55% sodium hydride (0.131 g), stirred for 30 minutes in a ice-water bath and then 1-(bromoacetyl)-4-phenyl-piperazine (1.0 g) in dimethylformamide (5 mL) was added. The solution was stirred at room temperature for 18 hours and worked up as in Example 20. The crude product was purified by HPLC (ethyl acetate-hexane; 1:1) to yield 0.8 g of 4-[2-oxo-2-(4-phenyl-1-piperazinyl)ethoxy]-alpha-oxobenzeneacetic acid ethyl ester as an oil.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester | 0.582 g | C(C)OC(C(C1=CC=C(C=C1)O)=O)=O | C10H10O4
reactant | sodium hydride | 0.131 g | [H-].[Na+]
reactant | 1-(bromoacetyl)-4-phenyl-piperazine | 1.0 g | BrCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C12H15BrN2O
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[2-oxo-2-(4-phenyl-1-piperazinyl)ethoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.8 g | C(C)OC(C(C1=CC=C(C=C1)OCC(N1CCN(CC1)C1=CC=CC=C1)=O)=O)=O | C22H24N2O5
